US04849422
Grams 7.4 of 1-(2,3-dihydroxypropyl)piperazine and 4.3 g of 4-chloropyrimidine-5-carboxylic acid ethyl ester were warmed to 90° C. for 45 minutes in 100 ml dioxane. The reaction mixture was then settled, the supernatant liquor evaporated to dryness and the residue dissolved in hydrochloric ethanol and diluted with isopropanol until complete precipitation. By addition of 95° ethanol, the so formed gum crystallized and 4 g of 4-[4-(2,3-dihydroxypropyl)piperazin-1-yl]pyrimidine-5-carboxylic acid ethyl ester dihydrochloride, melting at 190°-193° C. (with decomposition), were obtained.

reactant | 1-(2,3-dihydroxypropyl)piperazine | OC(CN1CCNCC1)CO | C7H16N2O2
reactant | 4-chloropyrimidine-5-carboxylic acid ethyl ester | 4.3 g | C(C)OC(=O)C=1C(=NC=NC1)Cl | C7H7ClN2O2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 4-[4-(2,3-dihydroxypropyl)piperazin-1-yl]pyrimidine-5-carboxylic acid ethyl ester dihydrochloride | 4 g | Cl.Cl.C(C)OC(=O)C=1C(=NC=NC1)N1CCN(CC1)CC(CO)O | InChI=1S/C14H22N4O4.2ClH/c1-2-22-14(21)12-7-15-10-16-13(12)18-5-3-17(4-6-18)8-11(20)9-19;;/h7,10-11,19-20H,2-6,8-9H2,1H3;2*1H
